US06506901B2
Step A: 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorobenzaldehyde
To a solution of imidazole (4.28 g, 62.89 mmol) and 2-chloro-4-hydroxybenzaldehyde (8.95 g, 57.16 mmol) in CH2Cl2 (500 ml)was added dropwise a solution of t-butyldiphenylchlorosilane (17.27 g, 62.86 mmol) in CH2Cl2, (200 mL). The solution was stirred overnight at ambient temperature. The mixture was then poured into H2O (500 mL) and the organic layer washed with NaHCO3, H2O, brine, and dried (MgSO4). The solvent was removed in vacuo to provide 24.2 g of the title compound.

reactant | imidazole | 62.89 mmol, 4.28 g | N1C=NC=C1 | C3H4N2
reactant | 2-chloro-4-hydroxybenzaldehyde | 57.16 mmol, 8.95 g | ClC1=C(C=O)C=CC(=C1)O | C7H5ClO2
reactant | t-butyldiphenylchlorosilane | 62.86 mmol, 17.27 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | H2O | 500 mL | O | H2O
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | 4-{[t-Butyl(diphenyl)silyl]oxy}-2-chlorobenzaldehyde | 24.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1=CC(=C(C=O)C=C1)Cl | C23H23ClO2Si
